US08871738B2
(S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one
To a 25 mL round bottom flask containing (S)-4-azido-3-(3-bromo-4-methoxyphenyl)-2-methylbutan-2-ol (38 mg, 0.12 mmol) were added PPh3 (48 mg, 0.18 mmol), THF (2 mL) and water (0.2 mL). The resulting reaction mixture was heated to reflux for 2 hrs. Volatiles were removed under vacuum. To the residue was added 2 mL THF, DIEA (0.063 mL, 0.36 mmol) and CDI (39 mg, 0.24 mmol). The resulting reaction mixture was heated at 60° C. for 3 hrs. It was then diluted with 10 mL saturated NH4Cl and extracted with 15 mL EtOAc. The organics were dried over sodium sulfate, filtered and concentrated. Crude product was purified on a Combiflash prepacked silica gel column which was eluted with EtOAc to give 30 mg of the desired product (intermediate N). 1H NMR (500 MHz, CDCl3): δ 7.41 (s, 1H), 7.16 (d, J=7.8 Hz, 1H), 6.88 (d, J=8.5 Hz, 1H), 6.76 (s, 1H), 3.90 (s, 3H), 3.65 (t, J=11.4 Hz, 1H), 3.46 (br, 1H), 3.0 (br, 1H), 1.34 (s, 3H), 1.32 (s, 3H).

reactant | (S)-4-azido-3-(3-bromo-4-methoxyphenyl)-2-methylbutan-2-ol | 0.12 mmol, 38 mg | N(=[N+]=[N-])C[C@@H](C(C)(O)C)C1=CC(=C(C=C1)OC)Br | C12H16BrN3O2
reactant | PPh3 | 0.18 mmol, 48 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIEA | 0.36 mmol, 0.063 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 0.24 mmol, 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.2 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one | 30 mg | BrC=1C=C(C=CC1OC)[C@H]1CNC(OC1(C)C)=O | C13H16BrNO3
